US08623889B2
N-(7-(3-chlorophenoxy)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of N-(7-Bromoisoquinolin-3-yl)cyclopropanecarboxamide (89 mg, 0.30 mmol), 3-chlorophenol (115.2 mg, 0.90 mmol), 2,2,6,6-tetramethylheptane-3,5-dione (27.6 mg, 0.15 mmol), copper(I) chloride (30 mg, 0.30 mmol) and cesium carbonate (292.5 mg, 0.90 mmol) in 1-methyl-2-pyrrolidinone (2.5 mL) was stirred under microwave irradiation at 180° C. for 99 minutes under nitrogen. The mixture was diluted with dichloromethane and filtered through a pad of Celite. The filer cake was washed with dichloromethane and the combined filtrates were concentrated and purified by prep-HPLC to give the product (28.5 mg, 13%). LCMS (ESI): RT (min)=1.237, M+H+=338.8, method=A; 1H NMR (400 MHz, DMSO-d6) δ 10.93 (s, 1H), 9.06 (s, 1H), 8.41 (s, 1H), 8.02 (t, J=0.8 Hz, 1H), 7.84 (d, J=8.8 Hz, 1H), 7.53 (dd, J=1.6, 8.4 Hz, 1H), 7.38-7.31 (m, 5H), 2.09-1.99 (m, 1H), 0.83-0.79 (m, 4H).

reactant | N-(7-Bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.30 mmol, 89 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 3-chlorophenol | 0.90 mmol, 115.2 mg | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 0.15 mmol, 27.6 mg | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 0.90 mmol, 292.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1-methyl-2-pyrrolidinone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(I) chloride | 0.30 mmol, 30 mg | [Cu]Cl
product | N-(7-(3-chlorophenoxy)isoquinolin-3-yl)cyclopropanecarboxamide | 28.5 mg, 13% | ClC=1C=C(OC2=CC=C3C=C(N=CC3=C2)NC(=O)C2CC2)C=CC1 | C19H15ClN2O2
